US06403639B1
To 0.66 g of 5-t-butyl-2-(cycloheptylhydroxymethyl)benzene-1,4-diol dissolved in 20 ml of chloroform was added 0.44 g of p-toluenesulfonic acid monohydrate and the mixture was stirred at room temperature for a whole day and night. After the reaction mixture was poured into water and extracted with chloroform, the organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane containing 10% ethyl acetate) to give 0.27 g of 6-t-butyl-5-hydroxy-2,3-dihydrobenzofuran-2-spiro-1′-cycloheptane as a white solid (yield 43%).

reactant | 5-t-butyl-2-(cycloheptylhydroxymethyl)benzene-1,4-diol | 0.66 g | C(C)(C)(C)C=1C(=CC(=C(C1)O)C(O)C1CCCCCC1)O | C18H28O3
reactant | p-toluenesulfonic acid monohydrate | 0.44 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-t-butyl-5-hydroxy-2,3-dihydrobenzofuran-2-spiro-1′-cycloheptane | 0.27 g, yield 43% | C(C)(C)(C)C1=CC2=C(CC3(CCCCCC3)O2)C=C1O | C18H26O2
